US07968711B2
Sodium (0.3 g, 0.013 moles) was dissolved in ethanol (50 ml) and 4-Fluorophenylacetone (2.0 g, 0.013 moles) was added in ethanol (10 ml). Ethyl acrylate (1.3 g, 0.013 moles) was and the reaction mixture was heated at reflux overnight. The reaction mixture was allowed to cool and evaporated under reduced pressure to give a brown gum. Dissolved in water and washed with diethyl ether. The aqueous layer was acidified to pH2 with conc. Hydrochloric acid and extracted with dichloromethane. The extracts were combined and washed with water. Dried over anhydrous magnesium sulphate and filtered. The filtrate was evaporated to give an orange oil. (1.7 g) This was purified using a silica column eluted with dichloromethane:ethyl acetate 8:2 and then dichloromethane:ethyl acetate 2:1 to give a colorless gum. (0.428 g) This was triturated with diethyl ether/isohexane to give 4-(4-Fluorophenyl)cyclohexane-1,3-dione (0.28 g) as a white solid.

reactant | Sodium | 0.013 moles, 0.3 g | [Na] | Na
reactant | 4-Fluorophenylacetone | 0.013 moles, 2.0 g | FC1=CC=C(C=C1)CC(C)=O | C9H9FO
reactant | Ethyl acrylate | 0.013 moles, 1.3 g | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(4-Fluorophenyl)cyclohexane-1,3-dione | 0.28 g | FC1=CC=C(C=C1)C1C(CC(CC1)=O)=O | C12H11FO2
